US09212254B2
3,3′-dibromo-5,5′-bis(trimethylsilyl)-2,2′-bithiophene (Compound G4, synthesized in accordance with WO 2010/136353, 11.4 g, 24.3 mmol) was placed in a 500 mL four-necked flask in a nitrogen atmosphere, and dissolved in tetrahydrofuran (200 mL). This was cooled to −78° C., and a solution of n-butyl lithium in hexane (KANTO CHEMICAL CO., INC., 1.59 M, 32.1 mL) was added dropwise. After about 20 minutes of agitation, the 3,7-dimethyloctyl-n-hexyl-dichlorosilane (Compound G18, 9.5 g) synthesized in Synthesis Example B15 was added dropwise. The temperature was raised gradually to room temperature over the course of about 2 hours, water was added, and the product was extracted with hexane. The organic layer was washed with water, dried over sodium sulfate, and concentrated by filtration. The resulting oily substance was dissolved in chloroform (40 mL) and hexane (80 mL), trifluoroacetic acid (3.6 mL) was added, and the mixture was agitated for about 10 minutes at room temperature. Saturated sodium bicarbonate solution was added to the reaction solution, which was extracted with hexane and then concentrated under reduced pressure. The resulting yellow oily substance was dissolved in hexane, and subjected to silica gel column chromatography (solvent: hexane) to obtain the target 4-(3,7-dimethyloctyl)-4-n-hexyldithieno[3,2-b:2′,3′-d]silole (Compound G19, 8.2 g, yield 81%).

reactant | 3,3′-dibromo-5,5′-bis(trimethylsilyl)-2,2′-bithiophene | 24.3 mmol, 11.4 g | BrC1=C(SC(=C1)[Si](C)(C)C)C=1SC(=CC1Br)[Si](C)(C)C | C14H20Br2S2Si2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3,7-dimethyloctyl-n-hexyl-dichlorosilane | 9.5 g | CC(CC[Si](Cl)(Cl)CCCCCC)CCCC(C)C | C16H34Cl2Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.59 M, 32.1 mL | CCCCCC | C6H14
product | 4-(3,7-dimethyloctyl)-4-n-hexyldithieno[3,2-b:2′,3′-d]silole | 8.2 g, yield 81% | CC(CC[Si]1(C2=C(C3=C1C=CS3)SC=C2)CCCCCC)CCCC(C)C | C24H38S2Si
